US07700623B2
To an N,N-dimethylformamide (250 mL) solution of 50.0 g of 3-(4-cyanophenoxy)propyl=methanesulfonate were added 32.5 g of potassium iodide, 32.9 g of sodium bicarbonate, and 37.0 g of 3-(4-piperidinyl)-1-propanol hydrochloride at room temperature, which was then stirred at 70° C. for 6 hours and 50 minutes. The reaction mixture was cooled down to room temperature, to which water and toluene were then added, followed by adjustment to pH 1.0 using hydrochloric acid. The aqueous layer was separated, adjusted to pH 10.0 using a 20% sodium hydroxide aqueous solution, and stirred at room temperature for 15 minutes and then under cooling with ice for 30 minutes. The precipitate was collected by filtration and washed with water and toluene to provide 52.3 g of 4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzonitrile as white solid form.

reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | potassium iodide | 32.5 g | [I-].[K+]
reactant | sodium bicarbonate | 32.9 g | C([O-])(O)=O.[Na+]
reactant | 3-(4-piperidinyl)-1-propanol hydrochloride | 37.0 g | Cl.N1CCC(CC1)CCCO
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-{3-[4-(3-hydroxypropyl)-1-piperidinyl]propoxy}benzonitrile | 52.3 g | OCCCC1CCN(CC1)CCCOC1=CC=C(C#N)C=C1 | C18H26N2O2
